US05686065
Glycerol (GL) was reacted with chlorotriethoxysilane (CTS) in a 1:1 ratio at 0° C. in a 50/50 mixture of ethanol/cyclomethicone, using a 1:1 ratio of dicyclohexylamine to chlorosilane as the HCl scavenger. The resulting product, 1-triethoxysilylglycerol, was obtained in 90% yield and was dissolved to a 10% by weight solution in a 50/50 by volume mixture of ethanol/cyclomethicone.

reactant | chlorotriethoxysilane | Cl[Si](OCC)(OCC)OCC | C6H15ClO3Si
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | chlorosilane | Cl[SiH3] | ClH3Si
reactant | HCl | Cl | ClH
reactant | Glycerol | OCC(O)CO | C3H8O3
product | 1-triethoxysilylglycerol | 90% yield | C(C)O[Si](OCC(O)CO)(OCC)OCC | C9H22O6Si
